US04332808
A mixture of 16.9 g of 4-chloro-1H-indole, 170 ml of benzene, 85 ml of aqueous 50% sodium hydroxide solution, 1.89 g of n-tetrabutyl ammonium hydrogen sulfate and 16.6 ml of benzyl chloride was heated at 60° C. with strong stirring for 4 hours and was then cooled to room temperature. The decanted organic phase was washed with water, dried and evaporated to dryness. The 30.2 g of residue were chromatographed over silica gel and were eluted with cyclohexane to obtain 22.8 g of 4-chloro-1-benzyl-1H-indole melting at 58°-60° C.

reactant | 4-chloro-1H-indole | 16.9 g | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzyl chloride | 16.6 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | benzene | 170 ml | C1=CC=CC=C1 | C6H6
product | 4-chloro-1-benzyl-1H-indole | 22.8 g | ClC1=C2C=CN(C2=CC=C1)CC1=CC=CC=C1 | C15H12ClN
